US09382188B2
C) 3-(3-(hydroxymethyl)phenyl)propan-1-ol
Under a nitrogen atmosphere, to a solution of 3-(3-ethoxy-3-oxopropyl)benzoic acid (2.99 g) in THF (100 mL) was added a 1.0 M solution of tetrahydrofuran-borane in tetrahydrofuran (26.9 mL) at 0° C., and the mixture was stirred in an ice bath for 18 hr. A 1.0 M solution of tetrahydrofuran-borane in tetrahydrofuran (20.0 mL) was added at 0° C., and the mixture was further stirred for 20 hr in an ice bath. 1N Hydrochloric acid (100 mL) and water were added at 0° C., and the reaction mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.80 g) as a colorless oil.

reactant | 3-(3-ethoxy-3-oxopropyl)benzoic acid | 2.99 g | C(C)OC(CCC=1C=C(C(=O)O)C=CC1)=O | C12H14O4
reactant | tetrahydrofuran borane | O1CCCC1.B
reactant | Hydrochloric acid | 1N, 100 mL | Cl | ClH
reactant | water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 26.9 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20.0 mL | O1CCCC1 | C4H8O
product | 3-(3-(hydroxymethyl)phenyl)propan-1-ol | 1.80 g | OCC=1C=C(C=CC1)CCCO | C10H14O2
